US07964607B2
(b) 5-amino-1-cyclopentyl-3-methyl-1H-pyrazole-4-carboxamide
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide but substituting 5-amino-1-cyclopentyl-3-methyl-1H-pyrazole-4-carbonitrile provided the title compound. 1H NMR (300 MHz, CDCl3): δ 5.39 (br, 2H), 5.32 (br, 2H), 4.26 (m, 1H), 2.38 (s, 3H), 2.04 (m, 4H), 1.9 (m, 2H), 1.66 (m, 2H).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
reactant | 5-amino-1-cyclopentyl-3-methyl-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1C1CCCC1)C)C#N | C10H14N4
product | 5-amino-1-cyclopentyl-3-methyl-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1C1CCCC1)C)C(=O)N | C10H16N4O
